US20010053851A1
A solution of 3-cyclopentyl-2-[4-(3-hydroxy-prop-1-ynyl)-phenyl]-propionic acid methyl ester (1.55 g, 5.41 mmol) in methanol (30 mL) and water (30 mL) was treated with lithium hydroxide (2.60 g, 61.9 mmol). The reaction mixture was stirred at 25° C. for 48 h. At this time, the reaction was concentrated in vacuo. The residue was re-dissolved in water (100 mL) which was then acidified to pH=2 with concentrated hydrochloric acid. This solution was extracted with ethyl acetate (2×120 mL). The combined organic extracts were then washed with a half-saturated aqueous sodium chloride solution (1×40 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to afford 3-cyclopentyl-2-[4-(3-hydroxy-prop-1-ynyl)-phenyl]-propionic acid (1.27 g, 86%) as an off-white solid.

reactant | 3-cyclopentyl-2-[4-(3-hydroxy-prop-1-ynyl)-phenyl]-propionic acid methyl ester | 5.41 mmol, 1.55 g | COC(C(CC1CCCC1)C1=CC=C(C=C1)C#CCO)=O | C18H22O3
reactant | lithium hydroxide | 61.9 mmol, 2.60 g | [OH-].[Li+]
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 30 mL | O | H2O
product | 3-cyclopentyl-2-[4-(3-hydroxy-prop-1-ynyl)-phenyl]-propionic acid | 1.27 g, 86% | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C#CCO | C17H20O3
